US06281194B1
Step 1: [1-(2,6-dichlorophenyl) cyclobutyl]methylamine hydrochloride
1-(2,6-dichlorophenyl)-1-cyclobutanecarbonitrile (1 g, 4.4 mmol) was reduced with Raney nickel, in methanol/NH3. The catalyst was removed and washed with methanol. The filtrate was concentrated, and diethyl ether (100 mL) was added to the residue. Concentrated HCl was added dropwise to precipitate the desired product; 1.05 g (100% yield).

reactant | 1-(2,6-dichlorophenyl)-1-cyclobutanecarbonitrile | 4.4 mmol, 1 g | ClC1=C(C(=CC=C1)Cl)C1(CCC1)C#N | C11H9Cl2N
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol NH3 | CO.N
product | [1-(2,6-dichlorophenyl) cyclobutyl]methylamine hydrochloride | 100% yield | Cl.ClC1=C(C(=CC=C1)Cl)C1(CCC1)CN | InChI=1S/C11H13Cl2N.ClH/c12-8-3-1-4-9(13)10(8)11(7-14)5-2-6-11;/h1,3-4H,2,5-7,14H2;1H
